US07790756B2
To a solution of 5-amino-2,4-difluorophenol (0.3 g, 2.07 mmol) in DMSO (2 mL) was added potassium t-butoxide (0.23 g, 2.07 mmol) at RT. After stirring for 1 h, 3,5-dichloropyridine (0.37 g, 2.5 mmol) and potassium carbonate (0.14 g, 1 mmol) were added and the mixture was heated to 190° C. for 1 h in microwave reactor. Water (30 mL) was added, and the product was extracted with EtOAc (2×35 mL) and the combined organic layers were washed with brine solution, dried (Na2SO4), concentrated in vacuo and purified by chromatography (EtOAc/hexane) to afford 5-(5-chloropyridin-3-yloxy)-2,4-difluorobenzenamine (0.35 g, 66% yield) as a solid. 1H NMR (400 MHz, Acetone-d6) δ 8.33-8.30 (m, 2H), 7.44 (t, J=2.4 Hz, 1H), 7.13 (t, J=10.8 Hz, 1H), 6.78 (t, J=8.4 Hz, 1H), 4.85 (brs, 2H); MS (ESI) m/z: 257.0 (M+H+).

reactant | 5-amino-2,4-difluorophenol | 2.07 mmol, 0.3 g | NC=1C(=CC(=C(C1)O)F)F | C6H5F2NO
reactant | potassium t-butoxide | 2.07 mmol, 0.23 g | CC(C)([O-])C.[K+]
reactant | 3,5-dichloropyridine | 2.5 mmol, 0.37 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 1 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | Water | 30 mL | O | H2O
product | 5-(5-chloropyridin-3-yloxy)-2,4-difluorobenzenamine | 0.35 g, 66% yield | ClC=1C=C(C=NC1)OC=1C(=CC(=C(C1)N)F)F | C11H7ClF2N2O
